US09216999B2
6-Bromo-3H-imidazo[4,5-b]pyridine 4-oxide
m-Chloroperbenzoic acid (25 wt % water content, 2.77 g, 12.0 mmol) was gradually added dropwise to 6-bromo-3H-imidazo[4,5-b]pyridine (1.58 mg, 7.98 mmol) in ethyl acetate (15 mL), and the reaction mixture was stirred at room temperature for one day. The precipitated solid was collected by filtration and washed with ethyl acetate and diethyl ether and dried under reduced pressure to give the title compound as a pale yellow solid (1.67 g, yield 98%).

reactant | m-Chloroperbenzoic acid | 12.0 mmol, 2.77 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-bromo-3H-imidazo[4,5-b]pyridine | 7.98 mmol, 1.58 mg | BrC=1C=C2C(=NC1)NC=N2 | C6H4BrN3
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-3H-imidazo[4,5-b]pyridine 4-oxide | 1.67 g, yield 98% | BrC=1C=C2C(=[N+](C1)[O-])NC=N2 | C6H4BrN3O
